* ============================================================
* RIAA Phono Preamplifier - single channel (SPICE netlist)
*
* Topology: Douglas Self, "Small Signal Audio Design" - single
*   active-stage, non-inverting feedback RIAA equalizer.
*
* Op-amp: OPA1642 is the selected final part (per bom_draft.csv).
*   STATUS: real TI model now installed. You pulled the official
*   OPA164x PSpice macromodel (Green-Williams-Lis architecture,
*   Final 1.3, datasheet SBOS484D) text and it's saved alongside
*   this file as OPA164x.lib - verbatim, unmodified. This is TI's
*   GENERIC model for the whole family: single subckt
*   ".SUBCKT OPA164x IN+ IN- VCC VEE OUT" represents ONE amplifier
*   core; the physical OPA1642 is two of these cores sharing one
*   package's VCC/VEE pins (see "Stereo" note below).
*
*   Pin order CONFIRMED from the actual file: IN+ IN- VCC VEE OUT -
*   this matches what I'd guessed/templated earlier, so the swap
*   below is a direct instantiation, no reordering needed.
*
*   Sanity check against the project log: this model's internal
*   quiescent-current source (I_I_Q, VCC to VEE) is DC 1.8mA - matches
*   the 1.8mA typical Iq recorded in the op-amp selection table.
*   Consistent with the real part, not a mismatched/wrong model.
*
*   IDEAL_OPAMP is kept below, unused, as a quick reference/fallback
*   if you ever want a pure-topology check without the real model's
*   ESD clamps, noise sources, and finite GBW in the way.
*
* Component values: AS-BUILT standard-value parts (nearest E96/E24
*   to Self's exact book values - see project log for the full
*   tolerance-vs-standard-value table). Update C2 here if you decide
*   to combine two parts for tighter accuracy (book value 1.75nF;
*   this draft uses the single nearest-standard 1.8nF part).
*
* Ground reference note: this circuit's "0" node is the AUDIO ground
*   reference for THIS channel only. When integrating with
*   power_supply.cir for the full system, tie this "0" to the PSU's
*   VGND (virtual ground) net - NOT to true circuit ground ("0" over
*   there is true/chassis ground, PGND). See the integration note at
*   the bottom of power_supply.cir. (Side note while I had both files
*   open: the repo's power_supply.cir now ties its bulk cap and
*   virtual-ground divider directly to node "0" as true ground,
*   rather than to a separate unconnected "PGND" label like my
*   original draft did - that's actually a fix, not a regression.
*   My original draft's "PGND" was never tied to SPICE's mandatory
*   "0" reference node, which would have made that circuit float
*   with no ground reference at all. Good catch if that was you.)
*
* Stereo: to combine both channels in one SPICE deck, duplicate
*   everything below this header (all node names and reference
*   designators suffixed _L / _R) but keep only ONE
*   ".include OPA164x.lib" line total - re-including it twice in the
*   same deck will error with a duplicate-subcircuit-definition.
*   Instantiate two separate X-calls (X1_L, X1_R) against the same
*   included OPA164x subckt, both sharing the same VCC/VEE nodes -
*   that correctly represents one physical OPA1642 package (two
*   independent amplifier cores, one shared pair of supply pins),
*   without needing two separate ICs.
* ============================================================

.subckt IDEAL_OPAMP inP inN out
* Very high gain, near-infinite input impedance, zero output
* impedance behavioral op-amp model - topology verification only.
* No slew rate, no noise, no output clipping modeled, and no power
* pins (a behavioral E-source isn't affected by supply rails).
* Standard SPICE syntax (E-element), portable to LTspice, ngspice
* (KiCad's built-in simulator), and others.
Ein out 0 inP inN 1MEG
Rin_ideal inP inN 1G
.ends IDEAL_OPAMP

* --- Op-amp supply rails ---
* Once you're simulating the real OPA1642, it needs actual supply
* pins. In the full system (see power_supply.cir) this channel's
* local "0" maps to the PSU's VGND (~12V virtual midpoint), VRAW
* sits ~12V above that, and PGND sits ~12V below - so from the
* op-amp's point of view, referenced to ITS OWN "0" (this channel's
* audio ground), it sees roughly a symmetric +/-12V dual supply.
* That's what's modeled here for standalone simulation of this file.
Vcc VCC 0 DC 12
Vee VEE 0 DC -12

* --- Cartridge equivalent circuit (Audio-Technica AT-VM95E) ---
* Ideal EMF source in series with the coil's DC resistance and
* inductance, per the datasheet. 4mV magnitude = the datasheet
* reference output at 1kHz / 5cm/s.
Vcart cart_emf 0 AC 4m 0
Rcoil cart_emf cart_mid 485
Lcoil cart_mid vin 550m

* --- Cartridge loading network, at the preamp input node ---
Rin_load vin 0 47k
* Placeholder total shunt capacitance (headshell wiring + tonearm +
* interconnect cable, all combined). Target 100-200pF TOTAL per the
* AT-VM95E spec. This value is a placeholder until the real tonearm
* wiring capacitance is measured once the mechanicals exist - see
* project log, "cartridge loading network" section. Recommend making
* the real on-board part trimmable/selectable rather than fixed.
Cload vin 0 150p

* -- Op-amp: real OPA164x model (see header note above) ---
.include OPA164x/OPA164x.lib
X1 vin fb VCC VEE vout_raw OPA164x
* Fallback for pure-topology checks (no noise/clip/GBW effects):
* comment the two lines above and uncomment this one instead:
* X1 vin fb vout IDEAL_OPAMP

* --- Feedback network: R0/C0 ground leg ---
* Sets DC gain to unity and realizes the ~20Hz subsonic/rumble
* protection pole (R0*C0 ~= 7960us, matches the IEC RIAA amendment
* time constant almost exactly) - this is what keeps DC and subsonic
* content from being amplified by the full RIAA gain.
R0 fb nA 1k
C0 nA 0 8.2u

* --- Feedback network: R1||C1 in series with R2||C2 ---
* R1*C1 = 3180us (50Hz pole). R2*C2 = 75us (2122Hz pole). The 500Hz
* breakpoint is not a direct RC product - it emerges from the
* interaction of these two branches (see Lipshitz, "On RIAA
* Equalization Networks", JAES 1979).
R1 vout_raw nB 511k
C1 vout_raw nB 6.2n
R2 nB fb 43.2k
C2 nB fb 1.8n
C3 vout_raw vout_ac_couple 100n
* --- Analysis ---
* AC sweep for the Bode/RIAA-conformance check. Cross-check against
* riaa_amp_tf.m / riaa_bode_tolerance_analysis.m: expect close
* agreement through most of the audio band, with the real model
* peeling away from the ideal-op-amp math near the top of the band
* (finite gain-bandwidth) - that's expected, not an error. A large
* mismatch across the whole band instead would point to a wiring or
* pin-order mistake in the X1 line.
* .op is also useful here as a first gut-check: it should converge
* (no "no convergence"/singular-matrix error) and show sensible DC
* levels - inputs/output all near VGND (0V in this standalone file,
* since local "0" = VGND when integrated), and roughly 1.8mA drawn
* from VCC to VEE (this op-amp's modeled quiescent current).
.ac dec 100 10 100k
.op

.end
